US06906063B2
B. Synthesis of (tert-butyl)[(5-chloro-3-fluoro(2-thienyl))sulfonyl]amine
A THF solution (1.5 mL) of 128 mg (0.50 mmol) of (tert-butyl)[(5-chloro(2-thienyl))sulfonyl]amine was cooled to −78° C. and treated with 954 μL (1.5 mmol) of a 1.6 M solution of butyl lithium in hexane. After 1 h, 159 mg (0.5 mmol) of bis(phenylsulfonyl)fluoroamine was added and the solution was allowed to warm to 23° C. The reaction was quenched with 1 mL of sat. NH4Cl, extracted 3 times with diethyl ether, dried (MgSO4), concentrated in vacuo to afford a quantitative yield (147 mg) of the desire product. 19F-NMR (CDCl3) δ (ppm): −113.4.

reactant | THF | 1.5 mL | C1CCOC1 | C4H8O
reactant | (tert-butyl)[(5-chloro(2-thienyl))sulfonyl]amine | 0.50 mmol, 128 mg | C(C)(C)(C)NS(=O)(=O)C=1SC(=CC1)Cl | C8H12ClNO2S2
reactant | butyl lithium | C(CCC)[Li]
reactant | bis(phenylsulfonyl)fluoroamine | 0.5 mmol, 159 mg | C1(=CC=CC=C1)S(=O)(=O)N(F)S(=O)(=O)C1=CC=CC=C1 | C12H10FNO4S2
solvent | hexane | CCCCCC | C6H14
product | (tert-butyl)[(5-chloro-3-fluoro(2-thienyl))sulfonyl]amine | 147 mg, quantitative yield | C(C)(C)(C)NS(=O)(=O)C=1SC(=CC1F)Cl | C8H11ClFNO2S2
